US08048902B2
Synthesis of (4′-{-4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-6-methoxy-biphenyl-3-yl)-acetic acid (Compound 7)
To (4′-{4-[1-(2-chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-6-methoxy-biphenyl-3-yl)-acetic acid ethyl ester (0.105 g, 0.20 mmol) in methanol (20 mL) was added 1N aqueous LiOH (5 mL, 5 mmol), and the reaction was stirred for 2 hours. The mixture was diluted with water and extracted with EtOAc. The combined organic layers were dried and concentrated to give the title compound.

reactant | (4′-{4-[1-(2-chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-6-methoxy-biphenyl-3-yl)-acetic acid ethyl ester | 0.20 mmol, 0.105 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OC(C)C1=C(C=CC=C1)Cl)=O | C30H29ClN2O6
reactant | LiOH | 5 mmol, 1N, 5 mL | [Li+].[OH-]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | O | H2O
product | (4′-{-4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-6-methoxy-biphenyl-3-yl)-acetic acid | ClC1=C(C=CC=C1)C(C)OC(=O)NC=1C(=NOC1C1=CC=C(C=C1)C1=CC(=CC=C1OC)CC(=O)O)C | C28H25ClN2O6
